US09260422B2
4-[6-(3-Chloro-4-isopropoxy-phenyl)-pyrimidin-4-yl]-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
Hexamethyldistannane (5.6 ml, 2.7 mmol) and lithium chloride (0.34 g, 7.8 mmol) were added sequentially in one portion to a stirred solution of, 4-chloro-6-(3-chloro-4-isopropoxy-phenyl)-pyrimidine (0.75 g, 2.7 mmol) and 4-trifluoromethanesulfonyloxy-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (1.0 g, 2.7 mmol) in THF (40 ml). The mixture was degassed with nitrogen for 5 minutes, after which time palladium tetrakis(triphenylphosphine) (0.31 g, 0.26 mmol) was added in one portion, the mixture was then heated to 70° C. and stirred at this temperature for 16 hours under a nitrogen atmosphere. After this time the reaction mixture was cooled to room temperature and partitioned between ethyl acetate (200 ml) and saturated potassium fluoride (50 ml). The organic layer was separated, washed sequentially with water (100 ml) then brine (100 ml) before being dried (MgSO4), filtered and concentrated. The resulting red gum was purified by flash column chromatography (elution: 80% EtOAc, 20% Heptane) to give the title compound (0.1 g, 9% yield) as a colourless oil. Tr=2.69 min m/z (ES+) (M+H+) 474.

reactant | Hexamethyldistannane | 2.7 mmol, 5.6 ml | C[Sn]([Sn](C)(C)C)(C)C
reactant | lithium chloride | 7.8 mmol, 0.34 g | [Cl-].[Li+]
reactant | 4-chloro-6-(3-chloro-4-isopropoxy-phenyl)-pyrimidine | 2.7 mmol, 0.75 g | ClC1=NC=NC(=C1)C1=CC(=C(C=C1)OC(C)C)Cl | C13H12Cl2N2O
reactant | 4-trifluoromethanesulfonyloxy-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 2.7 mmol, 1.0 g | COC(=O)C1N(C=C(C1)OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C12H16F3NO7S
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | palladium tetrakis(triphenylphosphine) | 0.26 mmol, 0.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 4-[6-(3-Chloro-4-isopropoxy-phenyl)-pyrimidin-4-yl]-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.1 g, 9% yield | COC(=O)C1N(C=C(C1)C1=NC=NC(=C1)C1=CC(=C(C=C1)OC(C)C)Cl)C(=O)OC(C)(C)C | C24H28ClN3O5
